Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS:  
This is a ___ with a history of hypertension who was 
sent
in from urgent care for ?A. fib with RVR.

Patient notes that on ___ he was going down a flight of
stairs when he noticed that he was more short of breath than
normal.  He had a sensation of slight dizziness and overall
sensation of fatigue that occurred fairly suddenly.  The patient
notes the night previously he was not drinking much water but 
had
3 or more glasses of wine which is more than normal for him.  He
noticed some slight palpitations but denied any chest pain or
pressure.  The patient subsequently sat down drink some water
which reduced symptoms slightly.  However, the patient continued
to have fatigue and overall weakness and therefore presented to
urgent care where he was found to have a heart rate in the 150s
and transferred to ___ ED. 

 
Past Medical History:
HYPERTENSION                                                    
HYPERLIPIDEMIA                                                  
HYPERGLYCEMIA                                                   
NECK PAIN  
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___                                            

Father   ___ ___  HEART DISEASE                             

Other    Living       HEALTHY                    4 brothers,2   
                                                 sisters, 3     
                                                 ___
                                                 ___             

 
Physical Exam:
ADMISSION PHYSICAL EXAM
================================
VITALS: Reviewed in OMR  
___: Weight: 206 (With Clothes)
___ 2359 Temp: 97.7 PO BP: 117/66 HR: 63 RR: 18 O2 sat: 97%
O2 delivery: ra 
GEN:  Alert, cooperative, no distress, appears stated age
HENT:     NC/AT, MMM. Nares patent, no drainage or sinus
tenderness. Teeth and gums normal.
EYES:    PERRL, EOM intact, conjunctivae clear, no scleral
icterus.
NECK:   No cervical lymphadenopathy. No JVD, no carotid bruit.
Neck supple, symmetrical, trachea midline.
LUNG:  CTA ___, good air movement, no accessory muscle use 
HEART:  RRR, Normal S1/S2, No M/R/G
BACK:  Symmetric, no curvature. ROM normal. No CVA tenderness.
ABD:  Soft, non-tender, non-distended; nl bowel sounds; no
rebound or guarding, no organomegaly
GU:  Not examined
EXTRM:  Extremities warm, no edema, no cyanosis, positive ___
pulses bilaterally
SKIN:  Skin color and temperature, appropriate. No rashes or
lesions
NEUR:  CN II-XII intact grossly. Moving all extremities,
strength, sensation and reflexes equal and intact throughout.
PSYC:  Mood and affect appropriate 

DISCHARGE PHYSICAL EXAM
================================
GENERAL: Well developed, well nourished man in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: PERRL. EOMI. No pallor or cyanosis of the oral mucosa.
NECK: Supple. JVD not appreciated.
CARDIAC: Normal S1, S2. No murmurs, rubs, or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use. No 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

 
Pertinent Results:
ADMISSION LABS
==============================
___ 08:02PM BLOOD WBC-7.9 RBC-5.07 Hgb-14.9 Hct-45.4 MCV-90 
MCH-29.4 MCHC-32.8 RDW-13.1 RDWSD-42.5 Plt ___
___ 08:02PM BLOOD Neuts-64.2 ___ Monos-7.2 Eos-0.8* 
Baso-0.9 Im ___ AbsNeut-5.07 AbsLymp-2.08 AbsMono-0.57 
AbsEos-0.06 AbsBaso-0.07
___ 08:02PM BLOOD ___ PTT-28.9 ___
___ 08:02PM BLOOD D-Dimer-470
___ 08:02PM BLOOD Glucose-163* UreaN-15 Creat-0.8 Na-138 
K-5.5* Cl-102 HCO3-23 AnGap-13
___ 08:58PM BLOOD ALT-18 AST-22 AlkPhos-61 TotBili-0.5
___ 08:02PM BLOOD proBNP-354*
___ 08:02PM BLOOD cTropnT-<0.01
___ 08:58PM BLOOD cTropnT-<0.01
___ 08:58PM BLOOD Albumin-4.2 Calcium-9.4 Phos-3.2 Mg-1.9
___ 08:58PM BLOOD TSH-2.4
___ 11:42PM BLOOD Lactate-0.8

DISCHARGE LABS
==============================
___ 06:53AM BLOOD WBC-5.6 RBC-4.74 Hgb-13.7 Hct-43.8 MCV-92 
MCH-28.9 MCHC-31.3* RDW-13.3 RDWSD-45.5 Plt ___
___ 06:53AM BLOOD ___ PTT-32.7 ___
___ 06:53AM BLOOD Glucose-101* UreaN-13 Creat-0.6 Na-143 
K-4.5 Cl-108 HCO3-27 AnGap-8*
___ 06:53AM BLOOD ALT-16 AST-17 LD(LDH)-176 AlkPhos-55 
TotBili-0.4
___ 06:53AM BLOOD Albumin-4.0 Calcium-8.8 Phos-3.3 Mg-2.1

PERTINENT STUDIES
==============================
___ Transthoracic Echo
EF 65%. Mild tricuspid regurgitation with normal valve 
morphology. Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/global biventricular 
systolic function.
 
Brief Hospital Course:
======================
TRANSITIONAL ISSUES 
======================
- Appointment to be made: Zio patch for 2 week monitoring of 
afib burden
- Appointment to be made: f/u with cardiology department in 3 
weeks
- consider up-titration of metoprolol as tolerated
- consider anti-hypertensives iso metoprolol up-titration. 

MEDICATION CHANGES
- NEW: metoprolol 37.5mg XL, apixaban 5mg BID
- STOPPED: verapamil 180mg daily

#CODE STATUS: Full (presumed) 
#CONTACT: Wife ___: ___ 

======================
BRIEF HOSPITAL COURSE
======================
___ with hypertension who presents with dyspnea and presyncope, 
found to be in afib and aflutter with RVR s/p metop, with 
spontaneous conversion. 

ACTIVE ISSUES
#Atrial Fibrillation and Atrial Flutter with RVR
Patient developed acute shortness of breath with palpations and 
pre-syncope, found to have evidence of atrial fibrillation as 
well as atrial flutter 2:1 block with RVR to HR 150-160's and 
asymptomatic hypotension. No history of prior episodes although 
this certainly could be patient's first experience of symptoms. 
Unclear precipitant at this time, without infectious, lifestyle, 
dietary changes; he does only endorse increased work-related 
stress recently with slightly more alcohol (3 glasses of wine vs 
2) intake. Less concern for ischemic heart damage with negative 
troponins and non-suggestive EKG, normal systolic function on 
TTE with EF 65% and trivial MR, mild TR. Discharged with 
discontinuation of verapamil, and introduction of metoprolol 
37.5mg XL pending up-titration as outpatient, along with 
apixaban 5mg BID which patient agrees to as well as plan for Zio 
patch monitoring to be reviewed by Cardiology follow-up. 
- Appointment to be made: Zio patch for 2 week monitoring of 
afib burden
- Appointment to be made: f/u with cardiology department in 3 
weeks
- consider up-titration of metoprolol as tolerated

CHRONIC ISSUES
#Hypertension
Discontinued home verapamil iso introduction of metoprolol. 
- consider anti-hypertensives iso metoprolol up-titration. 

Discharge time 25 min
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 180 mg PO Q24H 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 37.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 1.5 tablet(s) by mouth once a day 
Disp #*45 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
===================
#Atrial Fibrillation and Atrial Flutter with RVR

SECONDARY DIAGNOSES
===================
#Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
PATIENT DISCHARGE INSTRUCTIONS
================================================  
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
================================
- You were admitted because you had shortness of breath and you 
felt faint. 

WHAT HAPPENED IN THE HOSPITAL?  
================================
- You were given medications to slow the heart rate down.
- Your heart converted to its normal rhythm on its own.
- You were started on metoprolol (a medication to keep your 
heart rate low) and Eliquis (a blood thinner to lower your risk 
of stroke). 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take your medications as prescribed.
- We will set up an appointment with the cardiologist for a 
heart monitor (Zio patch) as well as a follow-up appointment. If 
you do not hear from the cardiologist's office by ___, please 
call ___ to confirm an appointment.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team 
 
Followup Instructions:
___